US04228177
(b) 2,3-Dihydro-3-(1H-imidazol-1-ylmethylene)-4H-1-benzothiopyran-4-one
To 8.7 g of 2,3-dihydro-3-(hydroxymethylene)-4H-1-benzothiopyran-4-one (0.045 mol), dissolved in 200 ml of benzene are added 8 g of carbonyl-bis-imidazole (0.05 mol) while stirring at room temperature for about 12 hours. Then the clear solution is evaporated in vacuo, the residue treated with water and the product extracted with chloroform. After the solvent is again distilled off, the oily residue is agitated with ether until the 2,3-dihydro-3-(1H-imidazol-1-ylmethylene)-4H-1-benzothiopyran becomes crystalline. Yield: 9.4 g. Recrystallization from absolute ethanol gives 8.7 g (79.8%) of compound; m.p. 139°-140° C.

reactant | 2,3-dihydro-3-(hydroxymethylene)-4H-1-benzothiopyran-4-one | 0.045 mol, 8.7 g | OC=C1CSC2=C(C1=O)C=CC=C2 | C10H8O2S
reactant | carbonyl-bis-imidazole | 0.05 mol, 8 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2,3-Dihydro-3-(1H-imidazol-1-ylmethylene)-4H-1-benzothiopyran-4-one | 8.7 g, 79.8% | N1(C=NC=C1)C=C1CSC2=C(C1=O)C=CC=C2 | C13H10N2OS
